US05504082
2-((3-Methyl-4-(2-(N-benzyl-N-ethoxycarbonylmethylamino)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole (1.0 g) was dissolved in ethanol (10 ml) and thereto was added an aqueous solution (3 ml) of 1N sodium hydroxide. The mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure and adjusted to pH 4 with an aqueous solution of dilute acetic acid. The resultant crystals were collected by filtration to give 2-((3-methyl-4-(2-(N-benzyl-N-carboxymethylamino)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole as colorless crystals.

reactant | 2-((3-Methyl-4-(2-(N-benzyl-N-ethoxycarbonylmethylamino)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole | 1.0 g | CC=1C(=NC=CC1SCCN(CC(=O)OCC)CC1=CC=CC=C1)CSC1=NC2=C(N1)C=CC=C2 | C27H30N4O2S2
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-((3-methyl-4-(2-(N-benzyl-N-carboxymethylamino)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole | CC=1C(=NC=CC1SCCN(CC(=O)O)CC1=CC=CC=C1)CSC1=NC2=C(N1)C=CC=C2 | C25H26N4O2S2
